US04614812
In a 100 ml apparatus, there were combined 11.6 g (0.1 mol) of Et3SiH, 13.6 g (0.1 mol) of Cl3SiH, and 9.1 g of methallyl chloride, followed by addition of 0.05 ml Pt catalyst solution at 21° C. There was a rapid and exothermic reaction to 61° C. in 2 min. Reaction appeared to have stopped and was heated to reflux over 4 hrs. when VPC showed complete reaction. Vacuum distillation yielded 17.03 g (82.5%) of Et3SiCH2CHMeCH2Cl, indicating that Cl3SiH is an effective promoter for the reaction of Et3SiH with methallyl chloride.

reactant | Et3SiH | 0.1 mol, 11.6 g | [SiH](CC)(CC)CC | C6H16Si
reactant | Cl3SiH | 0.1 mol, 13.6 g | [SiH](Cl)(Cl)Cl | Cl3HSi
reactant | methallyl chloride | 9.1 g | C(C(C)=C)Cl | C4H7Cl
product | Et3SiCH2CHMeCH2Cl | 17.03 g, 82.5% | [Si](CC)(CC)(CC)CC(C)CCl | C10H23ClSi
